US07074794B2
Piperazine (12.9 g) was dissolved in DMF (100 mL), and a solution of 2-fluoronitrobenzene (7.06 g) in DMF (30 mL) was added dropwise. The mixture was stirred at room temperature for 3 hr. The reaction mixture was added to water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried. The solvent was evaporated to give 1-(2-nitrophenyl)piperazine (7.7 g) as a red oil.

reactant | Piperazine | 12.9 g | N1CCNCC1 | C4H10N2
reactant | 2-fluoronitrobenzene | 7.06 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(2-nitrophenyl)piperazine | 7.7 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
